US06881733B1
A mixture of 0.045 gm (0.13 mMol) 2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine fumarate and 2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,5,6-tetrahydropyridine fumarate and 0.010 gm 10% palladium on carbon in 5 mL ethanol was hydrogenated at 1 atmosphere at room temperature for 5 hours. The reaction mixture was filtered through a pad of celite. The pad was rinsed with ethanol and the filtrate was concentrated under reduced pressure. The residue was subjected to ion exchange chromatography on an SCX column, eluting with methanol followed by 0.5N ammonia in methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 0.024 gm (79%) 2-methyl-4-(5-fluorobenzofur-7-yl)piperidine. This was dissolved in 5 mL ethanol and the solution was heated to reflux. To this solution were added 0.007 gm (0.06 mMol) fumaric acid. After mixing for about 5 minutes, the reaction mixture was diluted with diethyl ether. The mixture was concentrated under reduced pressure and the residue dried at 60° C. under vacuum for about 15 hours to provide 0.013 gm of the title compound.

reactant | 2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine fumarate | 0.13 mMol, 0.045 gm | C(\C=C\C(=O)O)(=O)O.CC1NCC=C(C1)C1=CC(=CC=2C=COC21)F
reactant | 2-methyl-4-(5-fluorobenzofur-7-yl)-1,2,5,6-tetrahydropyridine fumarate | C(\C=C\C(=O)O)(=O)O.CC1NCCC(=C1)C1=CC(=CC=2C=COC21)F
catalyst | palladium on carbon | 0.010 gm | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-methyl-4-(5-fluorobenzofur-7-yl)piperidine | 0.024 gm, 79% | CC1NCCC(C1)C1=CC(=CC=2C=COC21)F | C14H16FNO
